US09428452B2
9H-fluoren-9-ylmethyl 3-formyl-4-morpholinecarboxylate
To a stirred solution of 4-(9H-fluoren-9-ylmethyl) 3-methyl 3,4-morpholinedicarboxylate (0.6 g, 1.633 mmol) in anhydrous toluene (80 mL) cooled to −78° C. in a dry-ice acetone bath under nitrogen was added dropwise 1.0 M diisobutylaluminium hydride in hexanes (6.53 mL, 6.53 mmol) over 4 minutes. The solution was stirred at −78° C. for 1.5 hours. The reaction was quenched at −78° C. with methanol (1.5 mL) and then aqueous HCl (1 M, 50 mL). The mixture was allowed to warm to ambient temperature and the phases separated. The aqueous was washed with ethyl acetate (2×50 mL). The combined organic extracts were dried (MgSO4), filtered and the solvent removed in vacuo to leave an oil. The residue was loaded in dichloromethane and purified by flash chromatography (Si) using 0-100% ethyl acetate-cyclohexane over 30 minutes. The appropriate fractions were combined and evaporated in vacuo to give the required product as a white foam, 329 mg. LCMS [LCMS4] Rt 2.43 min, m/z (ES+) 338 (M+H).

reactant | 4-(9H-fluoren-9-ylmethyl) 3-methyl 3,4-morpholinedicarboxylate | 1.633 mmol, 0.6 g | N1(C(COCC1)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C21H21NO5
reactant | diisobutylaluminium hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 9H-fluoren-9-ylmethyl 3-formyl-4-morpholinecarboxylate | C(=O)C1N(CCOC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C20H19NO4
